US04039538
Tris-(2,4-dichloro-6-methyl-phenoxy)-s-triazine.
By the same procedure as in Example 1, 60 g of sodium hydroxide is dissolved at 70° C. in 1.8 liters of ethylene glycol monomethyl ether and, by the addition of 265.6 g (1.5 moles) of 2,4-dichloro-6-methylphenol, a phenolate solution is prepared into which 92 g (0.5 mole) of cyanuric acid chloride is stirred at 70° over a period of 3 minutes, causing the temperature of the reaction mixture to rise to 81° C. After half an hour of refluxing, the product is separated as in Example 1.

reactant | 2,4-dichloro-6-methylphenol | 1.5 moles, 265.6 g | ClC1=C(C(=CC(=C1)Cl)C)O | C7H6Cl2O
reactant | cyanuric acid chloride | 0.5 mole, 92 g | C1(=NC(=NC(=N1)Cl)Cl)Cl | C3Cl3N3
solvent | sodium hydroxide | 60 g | [OH-].[Na+]
solvent | ethylene glycol monomethyl ether | 1.8 liters | COCCO | C3H8O2
product | Tris-(2,4-dichloro-6-methyl-phenoxy)-s-triazine | ClC1=C(OC2=NC(=NC(=N2)OC2=C(C=C(C=C2C)Cl)Cl)OC2=C(C=C(C=C2C)Cl)Cl)C(=CC(=C1)Cl)C | C24H15Cl6N3O3
